US08791102B2
Step (b) A flask was charged with (2S,4R)-4-(benzyloxycarbonylamino)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid (2.51 g, 6.86 mmol), HATU (2.87 g, 7.55 mmol), 4-fluorophenoxyaniline (1.41 g, 6.86 mmol), DIEA (5.0 mL, 29 mmol) and DMF (20 mL). The reaction mixture was stirred at ambient temperature for 30 minutes and then quenched with saturated sodium bicarbonate (aq., 20 mL). The mixture was extracted with ethyl acetate (60 mL) and the extract was washed with deionized water (30 mL) and then brine (30 mL), dried over anhydrous sodium sulfate, filtered and concentrated to give (2S,4R)-tert-butyl 4-(benzyloxycarbonylamino)-2-(4-(4-fluorophenoxy)phenylcarbamoyl)pyrrolidine-1-carboxylate as a crude mixture which was carried forward without further purification.

reactant | (2S,4R)-4-(benzyloxycarbonylamino)-1-(tert-butoxycarbonyl)pyrrolidine-2-carboxylic acid | 6.86 mmol, 2.51 g | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(=O)O | C18H24N2O6
reactant | HATU | 7.55 mmol, 2.87 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-fluorophenoxyaniline | 6.86 mmol, 1.41 g | FC1=CC=C(ONC2=CC=CC=C2)C=C1 | C12H10FNO
reactant | DIEA | 29 mmol, 5.0 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | (2S,4R)-tert-butyl 4-(benzyloxycarbonylamino)-2-(4-(4-fluorophenoxy)phenylcarbamoyl)pyrrolidine-1-carboxylate | C(C1=CC=CC=C1)OC(=O)N[C@@H]1C[C@H](N(C1)C(=O)OC(C)(C)C)C(NC1=CC=C(C=C1)OC1=CC=C(C=C1)F)=O | C30H32FN3O6
